US07423012B2
A mixture of (4-Formyl-cyclohexyl)-carbamic acid tert-butyl ester (3.80 g, 16.7 mmol), benzylamine (1.82 g, 16.7 mmol), acetic acid (0.01 g, 16.7 mmol) and anhydrous magnesium sulfate (4.01 g, 33.3 mmol) in methylene chloride (20 mL) was stirred for 5 days. The mixture was filtered through Celite and concentrated under reduced pressure to give trans-[4-(benzylimino-methyl)-cyclohexyl]-carbamic acid tert-butyl ester (5.10 g, 97%) as a 97:3 trans:cis mixture.

reactant | (4-Formyl-cyclohexyl)-carbamic acid tert-butyl ester | 16.7 mmol, 3.80 g | C(C)(C)(C)OC(NC1CCC(CC1)C=O)=O | C12H21NO3
reactant | benzylamine | 16.7 mmol, 1.82 g | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 16.7 mmol, 0.01 g | C(C)(=O)O | C2H4O2
reactant | magnesium sulfate | 33.3 mmol, 4.01 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | trans-[4-(benzylimino-methyl)-cyclohexyl]-carbamic acid tert-butyl ester | 5.10 g, 97% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=NCC1=CC=CC=C1)=O | C19H28N2O2
